* Copyright 2020 The SkyWater PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

* SKY130 Spice File.
.param sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2_shieldpom3__slope = 0.0
* statistics {
*   mismatch {
*     vary  sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2_shieldpom3__slope dist=gauss std=0.00284
*   }
* }
.subckt  sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2_shieldpom3 c0 c1 b m3
+ 
.param  mult = 1.0
+ 
+ ctot_a = {93.41e-15*sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2_shieldpom3__cor+1.10163/sqrt(mult/0.32895)*sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2_shieldpom3__slope*93.41e-15*sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2_shieldpom3__cor}
+ cm3_c0 = {7.160e-15*cm3m2_vpp}
+ cm3_c1 = {5.080e-15*cm3m2_vpp}
+ cpl2s = {15.567e-15*cpl2s_vpp}
+ rat_m2 = 0.435
+ rat_m1 = 0.250
+ rat_li = 0.275
+ rat_li2p = 0.040
+ cap_m2 = {rat_m2*ctot_a}
+ cap_m1 = {rat_m1*ctot_a}
+ cap_li = {rat_li*ctot_a}
+ cap_li2p = {rat_li2p*ctot_a}
+ lm2 = 5.100
+ wm2 = 0.140
+ nfm2 = 72.0
+ nvia_c0 = 124.0
+ nvia_c1 = 62.0
+ lm1 = 5.215
+ wm1 = 0.140
+ nfm1 = 72.0
+ ncon_c0 = 116.0
+ ncon_c1 = 28.0
+ ll1 = 3.655
+ wl1 = 0.170
+ nfl1 = 62.0
+ nlicon = 126.0
ccmvpp11p5x11p7_m3shield m3 c0  c = {cm3_c0}
cm3_1 m3 c1 c = {cm3_c1}
rm21 c0 a1 r = {rm2*lm2/wm2*(1/3)*(1/nfm2)}
cm2 a1 c1 c = {cap_m2}
rvia1 c0 d0 r = {rcvia/nvia_c0}
rvia2 c1 d1 r = {rcvia/nvia_c1}
rm11 d0 b1 r = {rm1*lm1/wm1*(1/3)*(1/nfm1)}
cm1 b1 d1 c = {cap_m1}
rcon1 d0 e0 r = {rcl1/ncon_c0}
rcon2 d1 e1 r = {rcl1/ncon_c1}
rli1 e0 f1 r = {rl1*ll1/wl1*(1/3)*(1/nfl1)}
cli f1 e1 c = {cap_li}
rlicon e0 g0 r = {rcp1/nlicon}
rpoly g0 h0 r = {rp1}
cpl2b h0 b c = {cpl2s}
cl12p e1 h0 c = {cap_li2p}
.ends sky130_fd_pr__cap_vpp_11p5x11p7_l1m1m2_shieldpom3
